US07294716B2
Methyl 6-(2-phenoxyacetylamino)hexanoate (Intermediate A71)
To phenoxyacetic acid (50.0 g, 0.33 mol) dissolved in tetrahydrofuran (210 mL) was slowly added 1,1′-carbonyldiimidazole (56.0 g, 0.35 mol) with additional tetrahydrofuran (30 mL). After stirring for 1.5 hr at room temperature, triethylamine (92 mL, 0.66 mol) was added all at once and methyl 6-aminohexanoate hydrochloride (66.0 g, 0.36 mol) was added in portions over 20 min. The reaction mixture was stirred at room temperature overnight, heated at 50° C. for 20 min, and then stirred at room temperature for 20 hr. The reaction mixture was concentrated under reduced pressure, added to 1 N hydrochloric acid (750 mL) and extracted with ethyl acetate (2×250 mL). The combined organic layers were washed with 1 N hydrochloric acid (1×100 mL), water (1×100 mL), dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give a yellow oil. NMR analysis indicated presence of phenoxyacetic acid. The concentrate was dissolved in toluene (450 mL) and stirred 15 min with 25% sodium bicarbonate (200 mL). The organic layer was filtered through 1 PS paper, concentrated under reduced pressure, diluted with hexanes, and concentrated again, to give 76.89 g (84%) of the title compound, amide, as a yellow oil.

reactant | phenoxyacetic acid | 0.33 mol, 50.0 g | O(C1=CC=CC=C1)CC(=O)O | C8H8O3
reactant | 1,1′-carbonyldiimidazole | 0.35 mol, 56.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 0.66 mol, 92 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 6-aminohexanoate hydrochloride | 0.36 mol, 66.0 g | Cl.NCCCCCC(=O)OC
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 210 mL | O1CCCC1 | C4H8O
solvent | toluene | 450 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | Methyl 6-(2-phenoxyacetylamino)hexanoate | 76.89 g, 84% | O(C1=CC=CC=C1)CC(=O)NCCCCCC(=O)OC | C15H21NO4
